US06583135B2
Preparation of 9-(4-Methoxyphenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole Hydrochloride
A mixture of 3-benzyl-9-(4-methoxyphenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (0.22 g, 0.62 mmol), 1 N hydrochloric acid (0.65 mL, 0.65 mmol) and Pd/C (10%, 0.24 g) in ethanol (50.0 mL) was reacted in a manner similar to Example 8 to give 0.168 g (80%) of a greenish solid: mp 258-260° C.; 1H NMR (400 MHz, DMSO-d6) δ 11.08, 9.62, 7.64, 7.59, 7.31, 6.99, 3.79, 3.37-3.27, 3.22-3.12; IR (drift) 2986, 2957, 2921, 2893, 2829, 2752, 1514, 1476, 1456, 1273, 1250, 1239, 1180, 836, 800 cm−1; MS (EI) m/z 292 (M+); HRMS (FAB) calcd for C19H20N2O+H: 293.1654, found: 293.1651; Anal. Calcd for C19H20N2O.HCl: C, 69.40; H, 6.44; N, 8.52; Found: C, 68.37; H, 6.53; N, 8.27.

reactant | 3-benzyl-9-(4-methoxyphenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 0.62 mmol, 0.22 g | C(C1=CC=CC=C1)N1CCC=2NC=3C=CC(=CC3C2CC1)C1=CC=C(C=C1)OC | C26H26N2O
reactant | hydrochloric acid | 0.65 mmol, 1 N, 0.65 mL | Cl | ClH
solvent | ethanol | 50.0 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.24 g | [Pd] | Pd
product | 9-(4-Methoxyphenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole Hydrochloride | 0.168 g, 80% | Cl.COC1=CC=C(C=C1)C1=CC=2C3=C(NC2C=C1)CCNCC3 | InChI=1S/C19H20N2O.ClH/c1-22-15-5-2-13(3-6-15)14-4-7-18-17(12-14)16-8-10-20-11-9-19(16)21-18;/h2-7,12,20-21H,8-11H2,1H3;1H
